US06667312B2
Using the general method of Example 20 Part A, 1-(4-chlorobutyl)-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine (1.0 g, 3.30 mmol) was reacted with 2-mercaptopyrimidine (0.59 g, 5.3 mmol) to provide 1.0 g of 2-ethyl-1 μm-[4-(pyrimidin-2-ylthio)butyl]-1H-imidazo[4,5-c]quinolin-4-amine as an off white powder, m.p. 182-185° C.

reactant | 1-(4-chlorobutyl)-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.30 mmol, 1.0 g | ClCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CC | C16H19ClN4
reactant | 2-mercaptopyrimidine | 5.3 mmol, 0.59 g | SC1=NC=CC=N1 | C4H4N2S
product | [4-(pyrimidin-2-ylthio)butyl]-1H-imidazo[4,5-c]quinolin-4-amine | N1=C(N=CC=C1)SCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C18H18N6S
